US09382188B2
J) ethyl 3-cyclopropyl-3-(3-(((6-(2-fluoro-5-methoxyphenyl)-5-neopentylpyridin-3-yl)oxy)methyl)phenyl)propanoate
Under a nitrogen atmosphere, to a solution of 6-(2-fluoro-5-methoxyphenyl)-5-neopentylpyridin-3-ol (300 mg), ethyl 3-cyclopropyl-3-(3-(hydroxymethyl)phenyl)propanoate (257 mg) and triphenylphosphine (554 mg) in THF (5.0 mL) was added a 40% solution of diethyl azodicarboxylate in toluene (943 μL) at room temperature, and the mixture was stirred for 14 hr. The solvent of the reaction mixture was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (253 mg) as a yellow oil.

reactant | 6-(2-fluoro-5-methoxyphenyl)-5-neopentylpyridin-3-ol | 300 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=N1)O)CC(C)(C)C | C17H20FNO2
reactant | ethyl 3-cyclopropyl-3-(3-(hydroxymethyl)phenyl)propanoate | 257 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)CO | C15H20O3
reactant | triphenylphosphine | 554 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | toluene | 943 μL | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-cyclopropyl-3-(3-(((6-(2-fluoro-5-methoxyphenyl)-5-neopentylpyridin-3-yl)oxy)methyl)phenyl)propanoate | 253 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)COC=1C=NC(=C(C1)CC(C)(C)C)C1=C(C=CC(=C1)OC)F | C32H38FNO4
